US07956216B2
62B: N-ethyl 3-phenylbenzamide
Trimethylaluminum (920 μL of 2M solution in toluene, 1.84 mmol) was added drop wise to a suspension of ethylamine hydrochloride (151 mg, 1.84 mmol) in 2.76 mL of dry toluene at 0° C. The reaction was then warmed to room temperature and stirred until no gas evolution was observed. The clear solution was then canulated onto a solution of Methyl 3-phenylbenzoate in 6 mL of toluene. The reaction was then heated to 80° C. and stirred for 18 hours. The reaction mixture was then carefully treated with 5% HCl at 0° C. The aqueous layer was extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The oil obtained was purified by flash chromatography using SiO2 with CH2Cl2/MeOH 99:1 to give a pale yellow oil (129 mg, 62%). NMR 1H (ppm, CDCl3): 8.0 (s, 1H), 7.72 (d, J3=8.1 Hz, 2H), 7.61 (d, J3=5.4 Hz, 2H), 7.52-7.35 (m, 4H), 6.14 (br. s., 1H), 3.58-3.49 (m, 2H), 1.28 (t, J3=7.5 Hz, 3H).

reactant | Trimethylaluminum | 1.84 mmol, 2M, 920 μL | C[Al](C)C
reactant | ethylamine hydrochloride | 1.84 mmol, 151 mg | Cl.C(C)N
reactant | Methyl 3-phenylbenzoate | C1(=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C14H12O2
reactant | HCl | Cl | ClH
solvent | toluene | 2.76 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | N-ethyl 3-phenylbenzamide | 129 mg, 62% | C(C)NC(C1=CC(=CC=C1)C1=CC=CC=C1)=O | C15H15NO
